US06555542B1
Part A: A suspension of 3-bromothiophenol (15.2 g, 81 mmol), bromoacetaldehyde dimethylacetal (9.5 mL, 81 mmol) and potassium carbonate (12.2 g, 88 mmol) in acetone (90 mL) was stirred at ambient temperature overnight. The solid was filtered and rinsed with ether. Evaporation of the filtrate afforded 23 g of 1-bromo-3-((2,2-dimethoxyethyl)thio)benzene which was carried forward without further purification.

reactant | 3-bromothiophenol | 81 mmol, 15.2 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | bromoacetaldehyde dimethylacetal | 81 mmol, 9.5 mL | COC(CBr)OC | C4H9BrO2
reactant | potassium carbonate | 88 mmol, 12.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 90 mL | CC(=O)C | C3H6O
product | 1-bromo-3-((2,2-dimethoxyethyl)thio)benzene | 23 g | BrC1=CC(=CC=C1)SCC(OC)OC | C10H13BrO2S
